US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-(5-chloro-pyridin-2-yl)-amine
Was prepared according to Example 3 from N-(5-chloro-pyridin-2-yl)-formamide and 2,6-dichloro-9-methyl-9H-purine.

reactant | N-(5-chloro-pyridin-2-yl)-formamide | ClC=1C=CC(=NC1)NC=O | C6H5ClN2O
reactant | 2,6-dichloro-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
product | (2-Chloro-9-methyl-9H-purin-6-yl)-(5-chloro-pyridin-2-yl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=NC=C(C=C1)Cl | C11H8Cl2N6
